US07291643B2
N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]-N-(methylsulfonyl)methane sulfonamide
The title compound was prepared according to general procedure for sulfonylation of 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile using methane sulfonyl chloride (43 μL, 0.55 mmol) to provide N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]-N-(methylsulfonyl)methanesulfonamide (0.021 g).

reactant | 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | NC1=CC=C(C=C1)C1=CC=C(N1C)C#N | C12H11N3
reactant | methane sulfonyl chloride | 0.55 mmol, 43 μL | CS(=O)(=O)Cl | CH3ClO2S
product | N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]-N-(methylsulfonyl)methanesulfonamide | 0.021 g | C(#N)C1=CC=C(N1C)C1=CC=C(C=C1)N(S(=O)(=O)C)S(=O)(=O)C | C14H15N3O4S2
